US07125901B2
NaCN (115 mg), KI (130 mg) and water (1.8 ml) were combined, and then a solution of N-(4-{2-[4-(chloromethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (230 mg) in DMF (7 ml) was added dropwise to the mixture at 0° C. The reaction mixture was stirred at r.t. for 19 hours, poured into water, and extracted with CHCl3. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residual solid was washed with ethyl ether to give N-(4-{2-[4-(cyanomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (149.1-mg) as a colorless solid.

reactant | NaCN | 115 mg | [C-]#N.[Na+]
reactant | water | 1.8 ml | O | H2O
reactant | N-(4-{2-[4-(chloromethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 230 mg | ClCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H15ClN2OS
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | N-(4-{2-[4-(cyanomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 149.1-mg | C(#N)CC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C15H15N3OS
